US07592457B2
3-[4-(1(S)-phenyl-ethyl-carbamoyl)-phenyl]-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione
A solution of 5,7-dichloro-3-(4-hydroxy-phenyl)-3-methyl-1H-quinoline-2,4-dione (0.45 g, 1.30 mmol) and triethylamine (0.18 mL) in dichloromethane (15 mL ) was added (S)-methyl benzylisocyanate (0.15 g, 1.56 mmol) at 0° C. The reaction mixture was stirred for 20 hours at room temperature, and then poured into ice water (100 mL). The reaction mixture was extracted with dichloromethane (100 mL×3), washed with brine (100 mL×2), dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by a flash column chromatography (n-hexane:EtOAc=7:1) to afford the unseparable diastereomeric 1:1 mixture (0.50 g, 80%) of the objective diastereomers: 1H NMR (500 MHz, DMSO-d6) δ 1.37 (d, J=7.0 Hz, 3H, CH3), 1.54 (s, 3H, CH3, one diastereomeric peaks), 1.64 (s, 3H, CH3, the other diastereomeric peaks), 4.65 (q, 1H, CH), 7.01-7.3 (m, 11H, ArH), 8.35 (br s, 1H, NH), 11.28 (br s, 1H, NH); m.p. 110-115° C. (diastereomeric 1:1 mixture); MS(EI) m/e 483 [M+−1], 335, 269, 120.

reactant | 5,7-dichloro-3-(4-hydroxy-phenyl)-3-methyl-1H-quinoline-2,4-dione | 1.30 mmol, 0.45 g | ClC1=C2C(C(C(NC2=CC(=C1)Cl)=O)(C)C1=CC=C(C=C1)O)=O | C16H11Cl2NO3
reactant | triethylamine | 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | (S)-methyl benzylisocyanate | 1.56 mmol, 0.15 g | C[C@@H](C1=CC=CC=C1)N=C=O | C9H9NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-[4-(1(S)-phenyl-ethyl-carbamoyl)-phenyl]-5,7-dichloro-3-methyl-1H-quinoline-2,4-dione | 0.50 g, 80% | C1(=CC=CC=C1)[C@H](C)NC(=O)C1=CC=C(C=C1)C1(C(NC2=CC(=CC(=C2C1=O)Cl)Cl)=O)C | C25H20Cl2N2O3
